US07799822B2
Prepared using general procedure 64. 4-Bromo-N-(thiazol-2-yl)benzenesulfonamide (54 mg, 0.17 mmol), (R)-3-(6-chloro-3,4-dihydroquinolin-1(2H)-yl)pyrrolidin-2-one (50 mg, 0.20 mmol), copper(I) iodide (3.8 mg, 10 mol %), N,N′-dimethylethylenediamine (4.2 μL, 20 mol %), and K2CO3 (94 mg, 0.68 mmol) were combined in a microwave vial and set under nitrogen. NMP (0.4 mL) was added, and the reaction mixture was heated to 200° C. for 30 min. using microwave irradiation. After cooling to RT, the reaction mixture was diluted with DMSO/MeOH (1:1, 0.6 mL) and purified via reverse phase HPLC using 10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA) to give (R)-4-(3-(6-chloro-3,4-dihydroquinolin-1(2H)-yl)-2-oxopyrrolidin-1-yl)-N-(thiazol-2-yl)benzenesulfonamide. LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=489.3; tR=3.27 min.

reactant | 4-Bromo-N-(thiazol-2-yl)benzenesulfonamide | 0.17 mmol, 54 mg | BrC1=CC=C(C=C1)S(=O)(=O)NC=1SC=CN1 | C9H7BrN2O2S2
reactant | (R)-3-(6-chloro-3,4-dihydroquinolin-1(2H)-yl)pyrrolidin-2-one | 0.20 mmol, 50 mg | ClC=1C=C2CCCN(C2=CC1)[C@H]1C(NCC1)=O | C13H15ClN2O
reactant | N,N′-dimethylethylenediamine | 4.2 μL | CNCCNC | C4H12N2
reactant | K2CO3 | 0.68 mmol, 94 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO MeOH | 0.6 mL | CS(=O)C.CO
catalyst | copper(I) iodide | 3.8 mg | [Cu]I
solvent | NMP | 0.4 mL | CN1CCCC1=O | C5H9NO
product | (R)-4-(3-(6-chloro-3,4-dihydroquinolin-1(2H)-yl)-2-oxopyrrolidin-1-yl)-N-(thiazol-2-yl)benzenesulfonamide | ClC=1C=C2CCCN(C2=CC1)[C@H]1C(N(CC1)C1=CC=C(C=C1)S(=O)(=O)NC=1SC=CN1)=O | C22H21ClN4O3S2
